US07528129B2
11.1b) (R)-1-(4-hydroxy-3-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A suspension of 108 mg (0.15 mmol) (R)-1-(4-benzyloxy-3-chloro-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 30 mg 10% Pd/C in 10 mL MeOH and 0.5 mL triethylamine was hydrogenated at RT and 3000 hPa hydrogen pressure until the theoretical amount of hydrogen had been taken up. The catalyst was filtered off, the residue was dissolved in 1 mL DMF and purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | (R)-1-(4-benzyloxy-3-chloro-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.15 mmol, 108 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)Cl)C=CC=C2 | C41H50ClN5O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
solvent | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | (R)-1-(4-hydroxy-3-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C=C1)O)C)C=CC=C2 | C34H45N5O6
